US05310904
A mixture of L-tert-leucine (721 mg), sodium borohydride (189 mg) and tetrahydrofuran (50 ml) is refluxed under nitrogen atmosphere for three hours. The mixture is cooled to -15° C., and thereto is added 8-chloro-2-(4-methoxyphenyl)-1,5-benzothiazepine-3,4(2H,5H)-dione (1113 mg). Each 0.38 ml of 25% acetic acid/tetrahydrofuran solution (1.67 mole as acetic acid) is added thereto at 20 minutes, and 2 hours 20 minutes after the beginning of the reaction, and the reaction solution is stirred at the same temperature for 19 hours. The mixture is evaporated under reduced pressure to remove the solvent, and to the residue is added 1N hydrochloric acid (70 ml). The precipitated crystal is collected by filtration, washed with water, and dried. The collected crystal is suspended in chloroform (50 ml), and the mixture is heated with stirring at 65° C. The mixture is cooled to 5° C., and allowed to stand overnight. The precipitated crystal is collected by filtration, and dried to give (2S,3S)-8-chloro-3-hydroxy-2-(4-methoxyphenyl)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one (896 mg).

reactant | L-tert-leucine | 721 mg | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | sodium borohydride | 189 mg | [BH4-].[Na+]
reactant | 8-chloro-2-(4-methoxyphenyl)-1,5-benzothiazepine-3,4(2H,5H)-dione | 1113 mg | ClC1=CC2=C(NC(C(C(S2)C2=CC=C(C=C2)OC)=O)=O)C=C1 | C16H12ClNO3S
reactant | acetic acid tetrahydrofuran | 1.67 mole, 0.38 ml | C(C)(=O)O.O1CCCC1
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2S,3S)-8-chloro-3-hydroxy-2-(4-methoxyphenyl)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 896 mg, Yield: 80.0% | ClC1=CC2=C(NC([C@@H]([C@@H](S2)C2=CC=C(C=C2)OC)O)=O)C=C1 | C16H14ClNO3S
